US04367229
According to HU-Patent Specification No. 167 676 2-methoxy-1-pyrroline is heated with diethyl-ethoxymethylene-malonate for 8 hours in the presence of ammonium acetate and the reaction mixture is processed in a complicated manner to give ethyl 4-oxo-4,6,7,8-tetrahydro-pyrrolo[1,2-a]pyrimidine with a yield of 7.1%. No melting point of the product is given, the product is characterized only by IR and PMR spectra.

reactant | 2-methoxy-1-pyrroline | COC1=NCCC1 | C5H9NO
reactant | diethyl-ethoxymethylene-malonate | C(C)OC(C(C(=O)OCC)=COCC)=O | C10H16O5
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
product | ethyl 4-oxo-4,6,7,8-tetrahydro-pyrrolo[1,2-a]pyrimidine | yield of 7.1% | C(C)C=1N=C2N(C(C1)=O)CCC2 | C9H12N2O
